US08895566B2
Lithium aluminum hydride (52.9 mL, 52.9 mmol) in THF (1.0M) was added to a solution of 2-(4-bromophenylamino)-2-(4-chlorophenyl)acetonitrile (20.0 g, 62.2 mmol) in THF (311 mL, 62.2 mmol) at −78° C. The reaction was allowed to stir at −78° C. and gradually warmed to room temperature over 4 hours. The reaction mixture was poured into 1N HCl. The solution was then basified and extracted with ethyl acetate (3×). The combined organic layers were washed with brine, dried and concentrated to give an oil. This residue was purified by column chromatography, eluting first with ethyl acetate/hexanes (2:1) then 5% MeOH/CH2Cl2->10% MeOH/CH2Cl2+1% NH4OH, affording N1-(4-bromophenyl)-1-(4-chlorophenyl)ethane-1,2-diamine as an oil (9.60 g, 49%). 1H NMR (400 MHz, CD3OD) δ □7.38 (d, 2H), 7.34 (d, 2H), 7.15 (d, 2H), 6.53 (d, 2H), 4.59 (dd, J=9.8, 4.7 Hz, 1H), 3.14 (dd, J=12.9, 4.7 Hz, 1H), 3.05 (dd, J=12.9, 9.4 Hz, 1H).

reactant | Lithium aluminum hydride | 52.9 mmol, 52.9 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(4-bromophenylamino)-2-(4-chlorophenyl)acetonitrile | 62.2 mmol, 20.0 g | BrC1=CC=C(C=C1)NC(C#N)C1=CC=C(C=C1)Cl | C14H10BrClN2
reactant | HCl | 1N | Cl | ClH
solvent | THF | 1.0M | C1CCOC1 | C4H8O
solvent | THF | 62.2 mmol, 311 mL | C1CCOC1 | C4H8O
product | N1-(4-bromophenyl)-1-(4-chlorophenyl)ethane-1,2-diamine | 9.60 g, 49% | BrC1=CC=C(C=C1)NC(CN)C1=CC=C(C=C1)Cl | C14H14BrClN2
